US07001897B2
To a solution of 3-t-butyldiphenylsilyloxy-1-(4-ethoxycarbonyl-1,3-thiazol-2-yl)azetidine (7.73 g, 16.6 mmol) (obtained as described in Reference Example 2(1)) in benzene (370 ml) was added a solution of 0.67M ammonium chloride-trimethylaluminium in benzene (75 ml) at room temperature under an atmosphere of nitrogen. The mixture was stirred in a water bath (50° C.) for 17 hours. After checking the completion of the reaction, 10% aqueous acetic acid solution (100 ml) and ethyl acetate (50 ml) were added to the reaction mixture in an ice bath and the resulting mixture was stirred at room temperature for 30 minutes. The reaction mixture was extracted with ethyl acetate. The organic layer was washed successively with saturated aqueous sodium hydrogencarbonate solution and saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using n-hexane:ethyl acetate (3:1) as the eluant to afford 3-t-butyldiphenylsilyloxy-1-(4-cyano-1,3-thiazol-2-yl)azetidine (6.98 g, yield 76%) as a pale brown solid.

reactant | 3-t-butyldiphenylsilyloxy-1-(4-ethoxycarbonyl-1,3-thiazol-2-yl)azetidine | 16.6 mmol, 7.73 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CN(C1)C=1SC=C(N1)C(=O)OCC | C25H30N2O3SSi
reactant | ammonium chloride trimethylaluminium | 0.67M | [Cl-].[NH4+].C[Al](C)C
reactant | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | benzene | 370 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 75 ml | C1=CC=CC=C1 | C6H6
product | 3-t-butyldiphenylsilyloxy-1-(4-cyano-1,3-thiazol-2-yl)azetidine | 6.98 g, yield 76% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CN(C1)C=1SC=C(N1)C#N | C23H25N3OSSi
